US08067445B2
Synthesis of (R)-2-{2′-[(Cyclopropanecarbonyl-ethyl-amino)-methyl]-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl}-propionic acid (Compound 1-224)
Cyclopropanecarboxylic acid ethyl-{2′-methoxy-5′-[(R)-1-methyl-2-((4R,5S)-4-methyl-2-oxo-5-phenyl-oxazolidin-3-yl)-2-oxo-ethyl]-4-trifluoromethyl-biphenyl-2-ylmethyl}-amide (0.011 g, 0.02 mmol) in THF (1 mL) and H2O (1 mL) was treated with hydrogen peroxide (30%; 0.004 mL, 0.04 mmol) and lithium hydroxide (0.002 g, 0.04 mmol), and the reaction was stirred overnight at room temperature. The mixture was acidified to pH 3-4 with 1N aqueous HCl and extracted three times with EtOAc. The combined organic layers were dried and concentrated to give the title compound. M+H is 450.

reactant | Cyclopropanecarboxylic acid ethyl-{2′-methoxy-5′-[(R)-1-methyl-2-((4R,5S)-4-methyl-2-oxo-5-phenyl-oxazolidin-3-yl)-2-oxo-ethyl]-4-trifluoromethyl-biphenyl-2-ylmethyl}-amide | 0.02 mmol, 0.011 g | C(C)N(C(=O)C1CC1)CC1=C(C=CC(=C1)C(F)(F)F)C1=C(C=CC(=C1)[C@H](C(=O)N1C(O[C@H]([C@H]1C)C1=CC=CC=C1)=O)C)OC | C34H35F3N2O5
reactant | hydrogen peroxide | 0.04 mmol, 0.004 mL | OO | H2O2
reactant | lithium hydroxide | 0.04 mmol, 0.002 g | [OH-].[Li+]
reactant | HCl | 1N | Cl | ClH
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | H2O | 1 mL | O | H2O
product | (R)-2-{2′-[(Cyclopropanecarbonyl-ethyl-amino)-methyl]-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl}-propionic acid | C1(CC1)C(=O)N(CC)CC1=C(C=CC(=C1)C(F)(F)F)C1=CC(=CC=C1OC)[C@H](C(=O)O)C | C24H26F3NO4
